US05641430
Preparation of trans-4-(3,4-difluorophenyloxymethyl)-1-n-pentyl-1-silacyclohexane
3.0 g (20 mmols) of n-pentyl bromide was dropped in a mixture of 0.5 g of magnesium (21 mmols) and 50 ml of tetrahydrofuran (hereinafter referred to simply as THF) to obtain a Grignard reagent. Subsequently, the solution was dropped in 50 ml of a THF solution of 5.5 g (20 mmols) of 4-(3,4-difluorophenyloxymethyl)-1-chloro-1-silacyclohexane to obtain a crude product. This product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring. The product was after-treated by a usual manner and isolated through column chromatography to obtain 5.6 g (yield: 89%) of the intended trans isomer product The results of measurement of a phase transition temperature and the IR analysis are shown below.

reactant | 4-(3,4-difluorophenyloxymethyl)-1-chloro-1-silacyclohexane | 20 mmols, 5.5 g | FC=1C=C(C=CC1F)OCC1CC[SiH](CC1)Cl | C12H15ClF2OSi
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | trans-4-(3,4-difluorophenyloxymethyl)-1-n-pentyl-1-silacyclohexane | yield: 89% | FC=1C=C(C=CC1F)OC[C@@H]1CC[Si@H](CC1)CCCCC | C17H26F2OSi
